* Preamp Transient — Detailed node monitoring for latch-up analysis
* ==================================================================
* Watch node_A (in_sig) and Cin voltage during startup

.title Preamp Latch-Up Detailed Analysis

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

Vcc  vcc 0  DC 14.5
Xpre  in_sig out vcc 0 trem  wurli_preamp

* R-1 from ground (no HV supply)
R1   0 in_sig  22K

* LDR: nominal 12K
Rldr trem 0  12K

* Load resistor
Rload out 0  100K

* Short transient to catch early latch-up
.tran 1U 10M 0 1U

.print TRAN V(in_sig) V(Xpre.base1) V(Xpre.emit1) V(Xpre.coll1) V(Xpre.coll2) V(out)

.end
